US04360520
1,4-Dihydro-3,6-dimethyl-4-phenyl-pyridazine-5-carboxylic acid methyl ester
19 g (75 mmols) of 2-acetyl-4-oxo-3-phenyl-pentanoic acid ethyl ester were heated to the boil together with 3.75 g (75 mmols) of hydrazine hydrate in 100 ml of ethanol under nitrogen for 10 hours. The solvent was then distilled off in vacuo and the residue was recrystallised from isopropanol.

reactant | 2-acetyl-4-oxo-3-phenyl-pentanoic acid ethyl ester | 75 mmols, 19 g | C(C)OC(C(C(C(C)=O)C1=CC=CC=C1)C(C)=O)=O | C15H18O4
reactant | hydrazine hydrate | 75 mmols, 3.75 g | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1,4-Dihydro-3,6-dimethyl-4-phenyl-pyridazine-5-carboxylic acid methyl ester | COC(=O)C=1C(C(=NNC1C)C)C1=CC=CC=C1 | C14H16N2O2
